US04244957
A mixture of 12.30 g. of 2-bromoethyl-phthalimide and 12.31 g of O-benzylhydroxylamine is warmed to 80° for 48 hours. Ethyl acetate is then added, and the precipitate formed is filtered off with suction. The mother liquor is evaporated in vacuo. 35 ml. of methanol are added to the oily residue and the mixture is left to stand at room temperature overnight. The crystalline precipitate is filtered off with suction and dried. The resulting crude product melts at 90°-91°. Analytically pure N-{2-[(benzyloxy)amino]ethyl}phthalimide, m.p. 92°-94°, is obtained by recrystallization from methanol.

reactant | 2-bromoethyl-phthalimide | BrCCC1=C2C(C(=O)NC2=O)=CC=C1 | C10H8BrNO2
reactant | O-benzylhydroxylamine | 12.31 g | C(C1=CC=CC=C1)ON | C7H9NO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{2-[(benzyloxy)amino]ethyl}phthalimide | C(C1=CC=CC=C1)ONCCN1C(C=2C(C1=O)=CC=CC2)=O | C17H16N2O3
